US04822792
In a first stage, 32 g (0.16 mol) of 1-propyl-2-(α-hydroxy-β-methoxyethyl)piperidine were introduced into a reactor containing 320 ml of anhydrous chloroform, the mixture was brought to 50° C. and 32 ml of thionyl chloride in 32 ml of chlorine were added dropwise, and the mixture was then heated under reflux for 10 h 30 min. After separation and distillation, 24.25 g of 1-propyl-2-(α-chloro-β-methoxyethyl)piperidine were obtained, of boiling point B.p.0.5 95° C.

reactant | 1-propyl-2-(α-hydroxy-β-methoxyethyl)piperidine | 0.16 mol, 32 g | C(CC)N1C(CCCC1)C(COC)O | C11H23NO2
reactant | chloroform | 320 ml | C(Cl)(Cl)Cl | CHCl3
reactant | thionyl chloride | 32 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chlorine | 32 ml | ClCl | Cl2
product | 1-propyl-2-(α-chloro-β-methoxyethyl)piperidine | 24.25 g | C(CC)N1C(CCCC1)C(COC)Cl | C11H22ClNO
